US05026700
A sample of methyl 4-hydroxythieno[2,3-b]pyridine-6- carboxylate is hydrolyzed by the addition of 2.5 equivalent of aqueous lM LiOH and stirred for 16 hours at RT. The aqueous reaction mixture is extracted 2x with ethyl acetate and acidified to pH 2.0 with aqueous lN HCl. The resulting precipitate is filtered, washed with water and dried to give 4-hydroxythieno[2,3-b]pyridine-6-carboxylic acid.

reactant | methyl 4-hydroxythieno[2,3-b]pyridine-6- carboxylate | OC1=C2C(=NC(=C1)C(=O)OC)SC=C2 | C9H7NO3S
reactant | LiOH | 2.5 equivalent | [Li+].[OH-]
product | 4-hydroxythieno[2,3-b]pyridine-6-carboxylic acid | OC1=C2C(=NC(=C1)C(=O)O)SC=C2 | C8H5NO3S
